US03992408
To a stirred suspension of potassium phthalimide (5.0 g, 0.027 mmole) in 25ml of dimethylformamide is added, dropwise, 3.80 g (0.025 mmole) of 1-bromobutanone. The mixture is heated for 10 hours at 80° C under nitrogen and then 150 ml of chloroform is added. The resulting mixture is poured into 30 ml of water and the organic layer is separated and washed with 10 ml of 0.2N sodium hydroxide. The resulting chloroform and dimethylformamide solution is dried over anhydrous sodium sulfate, and evaporated in vacuo to give 1-phthalimidobutanone.

reactant | potassium phthalimide | 0.027 mmole, 5.0 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
reactant | 1-bromobutanone | 0.025 mmole, 3.80 g | BrCC(CC)=O | C4H7BrO
reactant | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
reactant | water | 30 ml | O | H2O
solvent | dimethylformamide | 25ml | CN(C=O)C | C3H7NO
product | 1-phthalimidobutanone | C1(C=2C(C(N1CC(CC)=O)=O)=CC=CC2)=O | C12H11NO3
